US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,5-dimethyl-1H-pyrazole-3-carboxamide
To a solution of N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.61 mmol) in N,N-dimethylformamide (4.0 mL) were added 1,5-dimethyl-1H-pyrazole-3-carboxylic acid (171 mg, 1.22 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (351 mg, 1.83 mmol), 1-hydroxybenzotriazole (248 mg, 1.83 mmol) and triethylamine (256 μL, 1.83 mmol), and the mixture was stirred at 60° C. for 36 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=3/1→ethyl acetate alone) to give the title compound (72 mg, 26%) as a white powder.

reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.61 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
reactant | 1,5-dimethyl-1H-pyrazole-3-carboxylic acid | 1.22 mmol, 171 mg | CN1N=C(C=C1C)C(=O)O | C6H8N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.83 mmol, 351 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.83 mmol, 248 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.83 mmol, 256 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,5-dimethyl-1H-pyrazole-3-carboxamide | 72 mg, 26% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=NN(C(=C2)C)C)F)C1 | C22H20FN7O3
